### PR TITLE
[Merged by Bors] - feat(MvPolynomial): multiplicativity of `totalDegree` over domains

### PR DESCRIPTION
**Pull request by erdOne**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by erdOne** [comment]
TODO: See if I can use `Mathlib/Data/Finsupp/DegLex.lean` instead.

**Review by chrisflav — APPROVED** [review]
Thanks!
maintainer merge

File: Mathlib/RingTheory/MvPolynomial/MonomialOrder/DegLex.lean [hunk 1]
```diff
@@ -36,4 +35,14 @@ theorem degLex_totalDegree_monotone (h : degLex.degree f ≼[degLex] degLex.degr
   simp only [← MvPolynomial.degree_degLexDegree]
   exact DegLex.monotone_degree h
 
+end LinearOrder
+
+theorem totalDegree_mul_of_isDomain [IsCancelMulZero R] (hf : f ≠ 0) (hg : g ≠ 0) :
+    totalDegree (f * g) = totalDegree f + totalDegree g := by
+  let inst : LinearOrder σ := IsWellOrder.linearOrder WellOrderingRel
+  have : WellFoundedLT σ := ⟨WellOrderingRel.isWellOrder.wf⟩
```
Comment (chrisflav) [inline Mathlib/RingTheory/MvPolynomial/MonomialOrder/DegLex.lean:43]:
```suggestion
  obtain ⟨inst, _⟩ := exists_wellOrder σ
```
(untested)

**Comment by adomani** [comment]
This looks good to me, thanks!

I wonder whether this could be generalized further using machinery similar to `UniqueSums`: I remember that there arbitrary linear orders in the univariate case were later replaced by `UniqueSums`.

I'll ping @alreadydone as well, in case this piques his interest as well!

bors d+

**Review by alreadydone — APPROVED** [review]
LGTM! I'm not sure how you'd define a degree without a total order ...

**Comment by adomani** [comment]
I meant more that, in the presence of a linear order, there is a `UniqueSums` on the grading monoid and you can probably prove multiplicativy with a `UniqueSums` assumption on the grading monoid.

**Comment by erdOne** [comment]
bors merge
